US08278343B2
Preparation 75: 3-(4′-Fluoro-biphenyl-4-yloxymethyl)-1-(2-fluoro-phenylcarbamoyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 71 using 2-fluoro phenyl isocyanate and 3-(4′-fluoro-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 65) to afford the racemate as a colourless liquid (230 mg, 82%)

reactant | 2-fluoro phenyl isocyanate | FC1=C(C=CC=C1)N=C=O | C7H4FNO
reactant | 3-(4′-fluoro-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CNCC1)COC1=CC=C(C=C1)C1=CC=C(C=C1)F | C20H22FNO3
product | 3-(4′-Fluoro-biphenyl-4-yloxymethyl)-1-(2-fluoro-phenylcarbamoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(NC1=C(C=CC=C1)F)=O)COC1=CC=C(C=C1)C1=CC=C(C=C1)F | C27H26F2N2O4
